US05569653
To a solution of 4-(6-fluoro-1H-indazol-3-yl)piperidine (4.8 g, 18.9 mmol) in CH3CN (200 ml) was added 2-bromo-1-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethanone (4.8 g, 18.9 mmol) and sodium bicarbonate (1.9 g, 22.7 mmol) at room temperature. The reaction mixture was warmed to reflux (4 hours), cooled to room temperature and filtered through a pad of celite. The solids were washed with DCM and the combined filtrates were concentrated. The remaining residue was purified via preparative HPLC (silica gel, 5-10% MeOH/DCM) to give 4.1 g of 1-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethanone which was used without further purification. To a suspension of the latter (3.7 g, 9.4 mmol) in THF (100 ml) was added (dropwise) lithium aluminum hydride (11.3 ml of 1.0M solution in THF, 11.3 mmol) at room temperature, under nitrogen. The reaction mixture was warmed to reflux (5 hours), cooled to room temperature and carefully quenched with water (10 ml). The precipitated salts were removed via filtration and washed with 1:1 EtOAc/DCM. The combined filtrates were concentrated and the remaining oil was purified via flash column chromatography (silica gel, 10% MeOH/DCM) to give 2.2 g of the product. The dimaleate salt was prepared in methanol (30 ml) with maleic acid (3.0 eq.), m.p. 185°-187° C.

reactant | 4-(6-fluoro-1H-indazol-3-yl)piperidine | 18.9 mmol, 4.8 g | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
reactant | 2-bromo-1-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethanone | 18.9 mmol, 4.8 g | BrCC(=O)N1CC2=CC=CC=C2CC1 | C11H12BrNO
reactant | sodium bicarbonate | 22.7 mmol, 1.9 g | C([O-])(O)=O.[Na+]
solvent | CH3CN | 200 ml | CC#N | C2H3N
product | 1-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethanone | 4.1 g | C1N(CCC2=CC=CC=C12)C(CN1CCC(CC1)C1=NNC2=CC(=CC=C12)F)=O | C23H25FN4O
